US08629271B2
a) tert-Butyl 3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
Chloroacetyl chloride (4.88 mL) was added dropwise to a vigorously stirred mixture at 0° C. of potassium carbonate (17.43 g) in water (78 mL) and tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate (10.4 g) in ethyl acetate (92 mL). After 30 minutes at 0° C. the mixture was extracted with ethyl acetate and the organic layer dried over sodium sulfate, filtered and the solvent evaporated under reduced pressure. The residue was dissolved in THF (200 mL) and added dropwise over 3 hours to a stirred solution under nitrogen and heated at reflux of potassium tert-butoxide (1M in tert-butanol, 75 mL) and THF (250 mL). The mixture was cooled to room temperature and allowed to stir for 18 hours. Most of the solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and brine, the aqueous layer was re-extracted with ethyl acetate and the combined organics were dried over sodium sulfate, filtered and the solvent removed under reduced pressure. The residue was purified by trituration with a mixture of ether (30 mL) and isohexane (20 mL) to afford the subtitled product. Yield 8.20 g.

reactant | Chloroacetyl chloride | 4.88 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | 17.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | 10.4 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C11H22N2O3
solvent | water | 78 mL | O | H2O
solvent | ethyl acetate | 92 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | O=C1COC2(CN1)CCN(CC2)C(=O)OC(C)(C)C | C13H22N2O4
